US09278983B2
To a mixture of 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (2 g) and THF (60 ml), n-butyllithium (1.6 M in hexane) (4.3 ml) was added dropwise with cooling in dry-ice-acetone bath. The mixture was stirred for 30 minutes, and then DMF (2.2 ml) was poured. The mixture was heated to room temperature, and then saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated tinder reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 189 mg of 2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-carbaldehyde (hereinafter referred to as Present Compound 51).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 2 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | n-butyllithium | 1.6 M, 4.3 ml | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | DMF | 2.2 ml | CN(C)C=O | C3H7NO
product | 2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-carbaldehyde | 189 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C=O)N1C | C16H15N3OS
